US04288442
0.625 mol Potassium tert.-butylate, 542 ml. diethyl oxalate and 95.7 g. 2-allyloxy-6-nitrotoluene are stirred for 3 hours at 60° C., then mixed with 1 N acetic acid and extracted with diethyl ether. The oxalic acid ester remaining behind in the ether residue is removed at an elevated temperature at water-pump pressure, 171 g. ethyl 2-allyloxy-6-nitrophenylpyruvate being obtained.

reactant | diethyl oxalate | C(C(=O)OCC)(=O)OCC | C6H10O4
reactant | 2-allyloxy-6-nitrotoluene | C(C=C)OC1=C(C(=CC=C1)[N+](=O)[O-])C | C10H11NO3
solvent | acetic acid | 1 N | C(C)(=O)O | C2H4O2
product | ethyl 2-allyloxy-6-nitrophenylpyruvate | C(C=C)OC1=C(C(=CC=C1)[N+](=O)[O-])CC(C(=O)OCC)=O | C14H15NO6
